US07705038B2
Preparation of (Z)-2-(4-chlorophenyl)-3-(1-(3-methylbut-2-enyl)-1H-pyrrol-2-yl)acrylonitrile
A solution of (Z)-2-(4-Chloro-phenyl)-3-(1H-pyrrol-2-yl)acrylonitrile being Compound 2 in Table 8 (200 mg, 0.875 mmol) in dry acetone (35 ml) was treated with K2CO3 (121 mg) followed by dimethylallyl bromide (111 μl, 0.962 mmol, 1.1 equivalents). The mixture was heated to a gentle reflux for 20 h. The reaction was cooled to room temperature and filtered. The filtrate was chromatographed on silica gel using ethylacetate/petroleum spirits (1:1) as eluant to afford the title compound as a yellow oil (85 mg). This is Compound 80 in Table 8.

reactant | (Z)-2-(4-Chloro-phenyl)-3-(1H-pyrrol-2-yl)acrylonitrile | ClC1=CC=C(C=C1)/C(/C#N)=C/C=1NC=CC1 | C13H9ClN2
reactant | K2CO3 | 121 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylallyl bromide | 0.962 mmol, 111 μl, 1.1 equivalents | CC(=CCBr)C | C5H9Br
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | (Z)-2-(4-chlorophenyl)-3-(1-(3-methylbut-2-enyl)-1H-pyrrol-2-yl)acrylonitrile | 85 mg | ClC1=CC=C(C=C1)/C(/C#N)=C/C=1N(C=CC1)CC=C(C)C | C18H17ClN2
